US05101028
(6-Cyano-2-ethyl-7-hydroxy-5-methyl[1,2,4]triazolo[2,3-a]pyridine]
125 g of 3-aminocrotonitrile were dissolved in 500 ml of formamide and heated to 100° C. To this were added 155 g of N-cyanoacetyl-N,-propionylhydrazine in such a way that the exothermic reaction had subsided before the next addition. The mixture was then stirred at 120° to 125° C. for 6 hours and allowed to cool. It was then diluted with 1000 ml of water and acidified with concentrated hydrochloric acid. Filtration with suction, washing with water and drying at 100° C. resulted in 141 g of 6-cyano-2-ethyl-7-hydroxy-5-methyl[1,2,4]triazolo-[2,3-a]pyridine. A sample recrystallized from N-methylpyrrolidone melts at 346° to 348° C. and has the following analysis:

reactant | 3-aminocrotonitrile | 125 g | C/C(=C\C#N)/N | C4H6N2
reactant | propionylhydrazine | C(CC)(=O)NN | C3H8N2O
reactant | hydrochloric acid | Cl | ClH
reactant | water | 1000 ml | O | H2O
solvent | formamide | 500 ml | C(=O)N | CH3NO
product | 6-Cyano-2-ethyl-7-hydroxy-5-methyl[1,2,4]triazolo[2,3-a]pyridine | C(#N)C=1C(=CC=2N(C1C)N=C(N2)CC)O | C10H10N4O
